US09056873B2
Step B: 6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(isothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
To a stirred solution of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-4-(isothiazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (65.9 mg, 0.120 mmol) in MeOH (1.0 mL) was added 4N HCl/dioxane (1.0 mL, 4.00 mmol). The reaction mixture was heated to 60° C. for 1 hour and was subsequently concentrated in vacuo. The residue was triturated with EtOAc and filtered. The filter cake was washed with EtOAc to give a yellow solid, which was suspended into EtOH. The mixture was stirred at 80° C. for 30 minutes and allowed to cool to room temperature. The resulting precipitate was collected by filtration and washed with EtOH to yield a hydrochloride salt of the title compound as an off-white solid (18.6 mg, 40%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.36-1.55 (m, 2H), 1.58-2.06 (m, 6H), 3.77 (br s, 1H), 4.17-4.33 (m, 1H), 4.39-4.54 (m, 2H), 7.19 (d, J=5.86 Hz, 1H), 7.88 (br s, 3H), 8.62 (d, J=1.95 Hz, 1H), 8.69 (s, 1H), 8.97 (d, J=1.95 Hz, 1H). ESI-MS m/z [M+H]+ calc'd for C16H18FN5OS, 348. found, 348.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-4-(isothiazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.120 mmol, 65.9 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC=NS1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C26H34FN5O5S
reactant | HCl dioxane | 4.00 mmol, 4N, 1.0 mL | Cl.O1CCOCC1
reactant | EtOH | CCO | C2H6O
solvent | MeOH | 1.0 mL | CO | CH4O
product | 6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(isothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 18.6 mg, 40% | N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC=NS1)C(NC2)=O)F | C16H18FN5OS
